*$
* PART NUMBER:NJM2710
* MANUFACTURER: NEW JAPAN RADIO
* All Rights Reserved Copyright (c) Bee Technologies Inc. 2007
.Subckt NJM2710 AOUT AIN- AIN+ V+ BOUT BIN- BIN+ COUT CIN- CIN+
+ DOUT DIN- DIN+ EOUT EIN- EIN+ V- FOUT FIN- FIN+ 
X_U1     AIN+ AIN- V+ V- AOUT NJM2710_ME
X_U2     BIN+ BIN- V+ V- BOUT NJM2710_ME
X_U3     CIN+ CIN- V+ V- COUT NJM2710_ME
X_U4     DIN+ DIN- V+ V- DOUT NJM2710_ME
X_U5     EIN+ EIN- V+ V- EOUT NJM2710_ME
X_U6     FIN+ FIN- V+ V- FOUT NJM2710_ME
.ends  NJM2710
.subckt NJM2710_ME 1 2 3 4 5
  c1   11 12 9.00E-12  
  c2    6  7 164.00E-13    
  dc    5 53 dy
  de   54  5 dy
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 6.6296E3 -1E3 1E3 6E3 -6E3
  ga    6  0 11 12 33E-3 
  gcm   0  6 10 99 33E-6 
  iee   3 10 dc 7.8040E-3
  hlim 90  0 vlim 1K
  q1   11  2 13 qx1
  q2   12  1 14 qx2
  r2    6  9 100.00E3
  rc1   4 11 29.473
  rc2   4 12 29.473
  re1  13 10 22.830
  re2  14 10 22.830
  ree  10 99 25.628E3
  ro1   8  5 50
  ro2   7 99 25
  rp    3  4 155.29
  vb    9  0 dc 0
  vc    3 53 dc 1.7979
  ve   54  4 dc 1.7979
  vlim  7  8 dc 0
  vlp  91  0 dc 20
  vln   0 92 dc 20
.model dx D(Is=800.00E-18)
.model dy D(Is=800.00E-18 Rs=1m)
.model qx1 PNP(Is=800.00E-18 Bf=1.7967E3)
.model qx2 PNP(Is=836.3700E-18 Bf=2.1697E3)
.ends
*$
