*$
* PART NUMBER:NJM2712
* MANUFACTURER: NEW JAPAN RADIO
* All Rights Reserved Copyright (c) Bee Technologies Inc. 2007
.Subckt NJM2712 OUT1 -IN1 +IN1 V- +IN2 -IN2 OUT2 V+
X_U1     +IN1 -IN1 V+ V- OUT1 NJM2712_ME
X_U2     +IN2 -IN2 V+ V- OUT2 NJM2712_ME
.ends  NJM2712
.subckt NJM2712_ME 1 2 3 4 5
  c1   11 12 25.0E-12
  c2    6  7 61.200E-13
  dc    5 53 dy
  de   54  5 dy
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 5.06296E3 -1E3 1E3 5E3 -5E3
  ga    6  0 11 12 33.929E-3
  gcm   0  6 10 99 33.529E-6
  iee   3 10 dc 7.8040E-3
  hlim 90  0 vlim 1k
  q1   11  2 13 qx1
  q2   12  1 14 qx2
  r2    6  9 100.00E3
  rc1   4 11 29.473
  rc2   4 12 29.473
  re1  13 10 22.830
  re2  14 10 22.830
  ree  10 99 250.628E3
  ro1   8  5 70
  ro2   7 99 35
  rp    3  4 155.29
  vb    9  0 dc 0
  vc    3 53 dc 1.7979
  ve   54  4 dc 1.7979
  vlim  7  8 dc 0
  vlp  91  0 dc 20
  vln   0 92 dc 20
.model dx D(Is=800.00E-18
.model dy D(Is=800.00E-18 Rs=1m)
.model qx1 PNP(Is=800.00E-18 Bf=1.7807E3)
.model qx2 PNP(Is=836.50E-18 Bf=2.1497E3 CJC=58.179E-12)
.ends
*$