*$
*PART NUMBER: NJM2716
*MANUFACTURER: NEW JAPAN RADIO 
*OPAMP
*All Rights Reserved Copyright (c) Bee Technologies Inc. 2007
.subckt njm2716 OUT GND IN+ IN- V+
X_U1 IN+ IN- V+ GND OUT njm2716_ME
.ends njm2716
.subckt NJM2716_ME 1 2 3 4 5
  c1   11 12 8.6603E-12
  c2    6  7 4.1450E-12
  dc    5 53 dy
  de   54  5 dy
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 78.000E3 -1E3 1E3 78E3 -78E3
  ga    6  0 11 12 18.182E-3
  gcm   0  6 10 99 290.00E-9
  iee   3 10 dc 152.00E-6
  hlim 90  0 vlim 1K
  q1   11  2 13 qx1
  q2   12  1 14 qx2
  r2    6  9 100.00E3
  rc1   4 11 65
  rc2   4 12 65
  re1  13 10 58
  re2  14 10 58
  ree  10 99 1.3158E6
  ro1   8  5 50
  ro2   7 99 25
  rp    3  4 125.47
  vb    9  0 dc 0
  vc    3 53 dc 1.0880
  ve   54  4 dc .8885
  vlim  7  8 dc 0
  vlp  91  0 dc 20
  vln   0 92 dc 20
.model dx D(Is=800.00E-18)
.model dy D(Is=800.00E-18 Rs=1m Cjo=10p)
.model qx1 PNP(Is=800.00E-18 Bf=67.024)
.model qx2 PNP(Is=838.5000E-18 Bf=85.324)
.ends
*$