*$
*PART NUMBER: NJM2732
*MANUFACTURER: NEW JAPAN RADIO 
*OPAMP
*All Rights Reserved Copyright (c) Bee Technologies Inc. 2007
.Subckt NJM2732 OUT1 -IN1 +IN1 V- +IN2 -IN2 OUT2 V+
X_U1     +IN1 -IN1 V+ V- OUT1 NJM2732_S
X_U2     +IN2 -IN2 V+ V- OUT2 NJM2732_S
.ends njm2732
.subckt njm2732_S  1 2 3 4 5
  c1   11 12 8.6603E-12
  c2    6  7 30.000E-12
  dc    5 53 dy
  de   54  5 dy
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 3.4037E6 -1E3 1E3 3E6 -3E6
  ga    6  0 11 12 215.07E-6
  gcm   0  6 10 99 66.995E-9
  iee   3 10 dc 12.129E-6
  hlim 90  0 vlim 1K
  q1   11  2 13 qx1
  q2   12  1 14 qx2
  r2    6  9 100.00E3
  rc1   4 11 4.6496E3
  rc2   4 12 4.6496E3
  re1  13 10 346.78
  re2  14 10 346.78
  ree  10 99 16.489E6
  ro1   8  5 50
  ro2   7 99 25
  rp    3  4 50.006
  vb    9  0 dc 0
  vc    3 53 dc .945
  ve   54  4 dc .9488
  vlim  7  8 dc 0
  vlp  91  0 dc 20
  vln   0 92 dc 20
.model dx D(Is=800.00E-18)
.model dy D(Is=800.00E-18 Rs=1m Cjo=10p)
.model qx1 PNP(Is=800.00E-18 Bf=112.24)
.model qx2 PNP(Is=850.7231E-18 Bf=131.31)
.ends
*$